US08871756B2
2-Azido-N-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]acetamide
To a solution of 2-chloro-N-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]acetamide (70 mg, 0.19 mmol) in acetonitrile (2 mL) was added sodium azide (62 mg, 0.95 mmol). The resulting mixture was stirred at room temperature for 6 hours. The reaction was diluted with ethyl acetate (20 mL), and then washed with water (10 mL). The ethyl acetate fraction was dried over sodium sulfate, and then concentrated under reduced pressure to give a residue which was purified by column chromatography on silica gel (ethyl acetate/petroleum ether, 1:4) to give 65 mg of product as a white powder (yield was 91.8%). MS obsd. (ESI+) [(M+H)+] 373.

reactant | 2-chloro-N-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]acetamide | 0.19 mmol, 70 mg | ClCC(=O)NC1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2 | C21H20ClN3O
reactant | sodium azide | 0.95 mmol, 62 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-Azido-N-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]acetamide | 65 mg, yield was 91.8% | N(=[N+]=[N-])CC(=O)NC1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2 | C21H20N6O
